US05075304
a. N-phenethyl-2-nitroaniline
To a stirred solution of 1-fluoro-2-nitrobenzene (14.1 g, 0.1 mol) and triethylamine (14 ml, 0.1 mol) in DMF (150 ml) was added phenethylamine (12.1 g, 0.1 mol). The mixture was now heated to 100° C., and the reaction was monitored by TLC. After the reaction was completed (2 h) the solvent was removed by evaporation in vacuo. The residue was partitioned between 0.5N aqueous HCl (100 ml) and ether (100 ml). The organic phase was washed with water, dried and evaporated to give the title compound as a yellow oil.

reactant | 1-fluoro-2-nitrobenzene | 0.1 mol, 14.1 g | FC1=C(C=CC=C1)[N+](=O)[O-] | C6H4FNO2
reactant | triethylamine | 0.1 mol, 14 ml | C(C)N(CC)CC | C6H15N
reactant | phenethylamine | 0.1 mol, 12.1 g | C(CC1=CC=CC=C1)N | C8H11N
solvent | DMF | 150 ml | CN(C)C=O | C3H7NO
product | N-phenethyl-2-nitroaniline | C(CC1=CC=CC=C1)NC1=C(C=CC=C1)[N+](=O)[O-] | C14H14N2O2
